US04548973
A 1-liter, 3-neck, round-bottom flask is equipped with a mechanical stirrer, a thermometer, and a Soxhlet extractor topped with a water cooled condenser. The extractor is filled with 125 g of type 3A molecular sieves and the flask with 80.5 g (0.479 mole) dehydroacetic acid, 500 ml methyl alcohol, and 20 g of concentrated (96%) sulfuric acid. The stirred mixture in the flask is heated to the boiling point by means of an oil bath. The resulting vapor is condensed and allowed to flow through the molecular sieves and returned to the flask. This process is continued for 24 hours. The cooled mixture is then diluted with 250 ml of methylene chloride and neutralized with aqueous caustic. Water is added to the mixture and the methylene chloride layer is separated from the resulting two-phase system. The water layer is extracted twice more with 250 ml amounts of methylene chloride. The combined methylene chloride extracts are washed twice with water, dried over magnesium sulfate, filtered free of solids, and the solvent is removed on a rotary evaporator. The residue is then subjected to vacuum distillation through a 10 inch Vigreaux column yielding 48 g of methyl 2,6-dimethyl-4-oxopyran-3-carboxylate boiling between 130°-136° C. at 1.0 mm pressure.

reactant | dehydroacetic acid | 0.479 mole, 80.5 g | CC1=CC(=O)C(C(=O)O1)C(=O)C | C8H8O4
reactant | methyl alcohol | 500 ml | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | methyl 2,6-dimethyl-4-oxopyran-3-carboxylate | 48 g | CC=1OC(=CC(C1C(=O)OC)=O)C | C9H10O4
